US08710236B2
To a 2M solution of LDA in THF (5.4 mL, 10.8 mmol) in 300 mL THF cooled to −78° C. was slowly added 4-tertbutylphenyl acetic acid methyl ester (2 g, 9.8 mmol). After stirring for 1 hr at −78° C. a solution of 2.7 g of 1-benzyloxy-4-bromomethylbenzene (Chow and Mak, J. Org. Chem 1997, 62(15), 5116) in THF (10 mL) was added. The mixture was allowed to warm to room temperature overnight. Saturated ammonium chloride was added and the solution extracted with ethyl acetate. The solution was washed with brine, dried over sodium sulfate and concentrated to afford 3-(4-Benzyloxyphenyl)-2-(4-tert-butylphenyl)-propionic acid methyl ester as a yellow oil. TLC: Rf=0.42 hexane/ethyl acetate (8:1). The crude was carried on as is for the next step.

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 4-tertbutylphenyl acetic acid methyl ester | 9.8 mmol, 2 g | COC(CC1=CC=C(C=C1)C(C)(C)C)=O | C13H18O2
reactant | 1-benzyloxy-4-bromomethylbenzene | 2.7 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CBr | C14H13BrO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10.8 mmol, 5.4 mL | C1CCOC1 | C4H8O
product | 3-(4-Benzyloxyphenyl)-2-(4-tert-butylphenyl)-propionic acid methyl ester | COC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)C1=CC=C(C=C1)C(C)(C)C)=O | C27H30O3
